US06310076B1
A suspension of 4-nitrobenzaldehyde (10.00 g, 66.2 mol), 2-cyanoethyl acetoacetate (10.27 g, 66.2 mol), piperidine (281 mg, 3.31 mmol) and acetic acid (198 mg, 3.31 mmol) in 250 mol of 2-propanol was stirred at room temperature for 48 hrs. Reaction mixture was filtered, the solid collected and dried in air to give 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester as a white powder (11.24 g, 59%).

reactant | 4-nitrobenzaldehyde | 66.2 mol, 10.00 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-cyanoethyl acetoacetate | 66.2 mol, 10.27 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
reactant | 2-propanol | 250 mol | CC(C)O | C3H8O
catalyst | piperidine | 3.31 mmol, 281 mg | N1CCCCC1 | C5H11N
catalyst | acetic acid | 3.31 mmol, 198 mg | C(C)(=O)O | C2H4O2
product | 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester | 11.24 g, 59% | C(#N)CCOC(C(C(C)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O5
